US08003796B2
Preparation of 4-chlorophenyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)pyrrolidine-1-carboxylate
Example 18 was prepared according to procedures described in Example 2, Step A and Step C, substituting tert-butyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)pyrrolidine-1-carboxylate for tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate in Step A and 4-chlorophenyl chloroformate for 1,1,1-trifluoropropan-2-yl chloroformate in Step C. 1H NMR (500 MHz, CDCl3) δ 8.07 (d, J=8.25 Hz, 2H), 7.61 (d, J=8.25 Hz, 2H), 7.32 (d, J=8.80 Hz, 2H), 7.25 (dd, J=7.70, 3.30 Hz, 1H), 7.09 (d, J=8.80 Hz, 2H), 6.06-6.12 (m, 1H), 5.98-6.03 (m, 1H), 3.92-4.09 (m, 2 H), 3.49-3.92 (m, 3H), 3.34-3.48 (m, 1H), 3.09 (s, 3H), 2.73-2.89 (m, 1H), 2.12-2.29 (m, 1H), 1.79-1.97 (m, 1H). MS (ESI) 503 (M+H).

reactant | tert-butyl 4-(1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)piperidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OC1CCN(CC1)C(=O)OC(C)(C)C)=O | C22H28N2O6S
reactant | 4-chlorophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Cl | C7H4Cl2O2
reactant | 1,1,1-trifluoropropan-2-yl chloroformate | ClC(=O)OC(C(F)(F)F)C | C4H4ClF3O2
product | 4-chlorophenyl 3-((1-(4-(methylsulfonyl)phenyl)-2-oxo-1,2-dihydropyridin-4-yloxy)methyl)pyrrolidine-1-carboxylate | CS(=O)(=O)C1=CC=C(C=C1)N1C(C=C(C=C1)OCC1CN(CC1)C(=O)OC1=CC=C(C=C1)Cl)=O | C24H23ClN2O6S
